US05919780
(8-Benzyloxy-5H-dibenzo[b,e][1,4]diazepin-11-yl)-pyridin-3-ylmethyl-amine
A solution of 0.6 g (1.8 mmol) of 8-benzyloxy-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione in 10 mL 2-ethoxyethanol was treated with 0.4 mL (3.6 mmol) of 3-(aminomethyl)pyridine and heated at reflux overnight. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed three times with H2O, then with saturated NaHCO3 solution and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure gave the crude product. After trituration with CHCl3 /hexane, recrystallization from MeOH gave 349 mg (47.8% yield) of the product as a yellow solid, mp 196-197° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =407.

reactant | 8-benzyloxy-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione | 1.8 mmol, 0.6 g | C(C1=CC=CC=C1)OC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C1 | C20H16N2OS
reactant | 3-(aminomethyl)pyridine | 3.6 mmol, 0.4 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | (8-Benzyloxy-5H-dibenzo[b,e][1,4]diazepin-11-yl)-pyridin-3-ylmethyl-amine | 349 mg, 47.8% yield | C(C1=CC=CC=C1)OC=1C=CC2=C(N=C(C3=C(N2)C=CC=C3)NCC=3C=NC=CC3)C1 | C26H22N4O
